data/oMe_Silver.jsonl
{"reaction_id": "NR-244_1-c2occc2_4-c2ccc(OC)cc2","level": "easy","name": "Stork Enamine Synthesis","reactants_smiles": ["C(c2occc2)(=C)N1CCCC1","C(c2ccc(OC)cc2)Br"],"products_smiles": ["C(=O)(c2occc2)CC(c2ccc(OC)cc2)"],"conditions": "H2O","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c2occc2)(=[N+]1CCCC1)CC(c2ccc(OC)cc2)","step_weight": 0,"rationale": "The enamine's electron-rich α-carbon attacks the electrophilic carbon in the alkyl halide via SN2, favored by the good leaving ability of bromide and minimal steric hindrance at the electrophilic site."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c2occc2)(N1CCCC1)(CCc2ccc(OC)cc2)[OH2+]","step_weight": 0,"rationale": "Water, activated by the iminium's strong electrophilicity, adds to the iminium carbon due to resonance stabilization of the positive charge on nitrogen, facilitating nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c2occc2)([NH+]1CCCC1)(CCc2ccc(OC)cc2)O","step_weight": 0,"rationale": "Proton transfer from the oxonium to nitrogen relieves positive charge on oxygen, stabilizing the intermediate and preparing for C–N bond cleavage."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c2occc2)(=[OH+])CC(c2ccc(OC)cc2)","step_weight": 0,"rationale": "Elimination of the amine occurs as nitrogen's lone pair reforms, expelling it as a leaving group; the driving force is formation of the strong C=O double bond."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c2occc2)CC(c2ccc(OC)cc2)","step_weight": 0,"rationale": "Deprotonation of the protonated carbonyl restores neutrality, favored by the stability of the neutral ketone under aqueous conditions."}],"description": "The enamine acts as a nucleophile toward the alkyl halide via SN2, forming an iminium intermediate. Subsequent aqueous hydrolysis converts the iminium to a carbonyl through nucleophilic addition of water, proton transfers, and elimination, yielding the ketone product."}
{"reaction_id": "NR-211_1-C=CC_2-c1ccc(C)cc1_3-c1ccc(Cl)cc1_4-C(F)(F)F","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(C=CC)c1ccc(C)cc1","[C-]#[N+]c1ccc(Cl)cc1","O=C(O)C(F)(F)F"],"products_smiles": ["O=C(C(F)(F)F)OC(C(=O)Nc1ccc(Cl)cc1)(C=CC)c1ccc(C)cc1"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(C=CC)c1ccc(C)cc1","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(C=CC)(c1ccc(C)cc1)C(#[N+]c1ccc(Cl)cc1)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(C(F)(F)F)OC(=[N]c1ccc(Cl)cc1)C(C=CC)(c1ccc(C)cc1)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(C(F)(F)F)OC(=[N]c1ccc(Cl)cc1)C(C=CC)(c1ccc(C)cc1)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C(F)(F)F)OC(C(=O)Nc1ccc(Cl)cc1)(C=CC)c1ccc(C)cc1","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
